US04656181
15 g (0.04 moles) of 2-(4-acetylaminophenoxy)ethyl 2-(3-nitrobenzylidene)acetylacetate and 6.37 g (0.04 moles) of 2-methylthioethyl 3-aminocrotonate are heated under reflux in 30 ml of ethanol during 8 hours. The solution is then cooled to -5° C. to obtain 2-(4-acetylaminophenoxy)ethyl 2,6-dimethyl-5-(2-methylthioethoxycarbonyl)-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylate as yellow crystals melting--after recrystallisation in ethanol--at 76° C.-80° C. The yield is 80% of the theoretical yield.

reactant | 2-(4-acetylaminophenoxy)ethyl 2-(3-nitrobenzylidene)acetylacetate | 0.04 moles, 15 g | [N+](=O)([O-])C=1C=C(C=CC(=O)CC(=O)OCCOC2=CC=C(C=C2)NC(C)=O)C=CC1 | C21H20N2O7
reactant | 2-methylthioethyl 3-aminocrotonate | 0.04 moles, 6.37 g | N\C(=C/C(=O)OCCSC)\C | C7H13NO2S
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(4-acetylaminophenoxy)ethyl 2,6-dimethyl-5-(2-methylthioethoxycarbonyl)-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylate | yield is 80% | CC=1NC(=C(C(C1C(=O)OCCOC1=CC=C(C=C1)NC(C)=O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCSC)C | C28H31N3O8S
